Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.74104481961
[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-3.85576602388
[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.5073799031
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.1713157096
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.01738615516
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],3.78613134749
[C:5]([H:6])[H:7].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-7.48620881
[H:1][C:2]([O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:11]([H:12])([H:13])[H:14])([H:6])[C:9][H:10]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-1.94066380996
[H:1][C:2]([C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]1=[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-2.99214780447
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]=[C:10]([H:11])[H:12].[H:9],4.77146967462
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[H:1][C:2]#[C:3][C:5][C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:4],1.61070735071
[H:13].[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.56921588663
[C:4]([H:5])[H:6].[H:1][O:2][C:3]/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-6.94245369362
[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-8.03390917522
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1][C:2]#[C:3][H:4],0.798834194009
[C:1]=[C:2]([O:3][C:4]=[O:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]=[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],-4.423950699690001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.43801063246
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.7316275668
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:4],4.84115007367
[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8].[O:9][H:10],5.51861621133
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],2.03973511147
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[O:7],1.41233442366
[H:12].[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.678463547880001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C:8]1([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.24221079
[H:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-3.10425495149
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8].[H:1],4.88981037327
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][O:3],3.44195358394
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],-2.9226717710400005
[H:1][C:2][O:3]/[C:4]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-5.23863146208
